US07199124B2
N-[4-[4-(3-methylphenyl)-2-(1-methylpiperidin-4-yl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide
A solution of N-[4-[1-bromo-2-(3-methylphenyl)-2-oxoethyl]-2-pyridyl]benzamide hydrobromide (0.60 g, 1.2 mmol) and 1-methylpiperidine-4-carbothioamide (0.19 g, 1.18 mmol) in N,N-dimethylformamide (20 mL) was stirred at room temperature for 14 hrs. Into the reaction mixture was poured aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, dried and concentrated. The residue was purified by column chromatography (packing: Chromatorex NH DM1020 (product name, manufactured by Fuji Silysia Chemical Ltd.), hexane-ethyl acetate=2:1) and the resulting crystals were recrystallized from ethyl acetate to give the title compound (0.26 g, yield 46%).

reactant | N-[4-[1-bromo-2-(3-methylphenyl)-2-oxoethyl]-2-pyridyl]benzamide hydrobromide | 1.2 mmol, 0.60 g | Br.BrC(C(=O)C1=CC(=CC=C1)C)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O
reactant | 1-methylpiperidine-4-carbothioamide | 1.18 mmol, 0.19 g | CN1CCC(CC1)C(N)=S | C7H14N2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[4-[4-(3-methylphenyl)-2-(1-methylpiperidin-4-yl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide | 0.26 g, yield 46% | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O)C1CCN(CC1)C | C28H28N4OS
